US07807684B2
N-[4-(aminosulfonyl)-2-chlorophenyl]-2-bromoacetamide
A mixture of 750 mg (3.63 mmol) of 4-amino-3-chlorobenzenesulfonamide (A-2) and 610 mg (7.26 mmol) of sodium bicarbonate in 25 mL of CH2Cl2 was stirred at room temperature for 18 hours. Bromoacetyl bromide (A-1) was then added, and the mixture was stirred for an additional 12 hours. The mixture was then concentrated in vacuo to a yellow oil. The oil was washed with three 25 mL portions of diethyl ether, decanted, and concentrated in vacuo to give the desired product A-3 as a tan solid. MS: M+1=329.0.

reactant | 4-amino-3-chlorobenzenesulfonamide | 3.63 mmol, 750 mg | NC1=C(C=C(C=C1)S(=O)(=O)N)Cl | C6H7ClN2O2S
reactant | sodium bicarbonate | 7.26 mmol, 610 mg | C([O-])(O)=O.[Na+]
reactant | Bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | N-[4-(aminosulfonyl)-2-chlorophenyl]-2-bromoacetamide | NS(=O)(=O)C1=CC(=C(C=C1)NC(CBr)=O)Cl | C8H8BrClN2O3S
